US08975254B2
(S)-2-amino-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-amino-1,3-oxazole-4-carboxylic acid (0.037 g, 0.288 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.05 g, 0.192 mmol). Yield 35.7%. 1H-NMR (400 MHz; MeOD): δ 1.23 (d, 3H), 4.30 (dd, 1H), 4.37 (dd, 1H), 4.46-4.54 (m, 1H), 6.77 (d, 1H), 7.65 (s, 1H), 7.69 (d, 1H), 7.79 (dd, 1H), 7.91 (dd, 1H), 8.05 (dd, 1H).

reactant | 2-amino-1,3-oxazole-4-carboxylic acid | 0.288 mmol, 0.037 g | NC=1OC=C(N1)C(=O)O | C4H4N2O3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.192 mmol, 0.05 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)-2-amino-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | Yield 35.7% | NC=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H15ClN6O2
